US04175189
A suspension of 10 g. of dimethyl 6-chloro-2,4-pyrimidine-dicarbamate-3-oxide in 40 ml. of methylene chloride is treated with 20 ml. of 1,2,5,6-tetrahydropyridine and stirred at room temperature under an argon atmosphere for 16 hours. The resulting precipitate is filtered off and recrystallized from a mixture of methylene chloride and methanol, there being obtained pure dimethyl 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide, having a melting point of 203° C.

reactant | dimethyl 6-chloro-2,4-pyrimidine-dicarbamate-3-oxide | ClC1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C8H9ClN4O5
reactant | 1,2,5,6-tetrahydropyridine | N1CC=CCC1 | C5H9N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | dimethyl 6-[3,6-dihydro-1(2H)-pyridyl]-2,4-pyrimidine-dicarbamate-3-oxide | N1(CCC=CC1)C1=CC(=[N+](C(=N1)NC(=O)OC)[O-])NC(=O)OC | C13H17N5O5
